US09278931B2
F) N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-4-methylbenzamide hydrochloride
tert-Butyl(cyclopropylmethyl)(trans-2-{4-[(4-methylbenzoyl)amino]phenyl}cyclopropyl)carbamate (104.3 mg) was dissolved in 4N hydrochloric acid/cyclopentyl methyl ether solution (4 mL), and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (65.0 mg).

reactant | tert-Butyl(cyclopropylmethyl)(trans-2-{4-[(4-methylbenzoyl)amino]phenyl}cyclopropyl)carbamate | 104.3 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)C)=O)CC1CC1)=O | C26H32N2O3
reactant | hydrochloric acid cyclopentyl methyl ether | 4N, 4 mL | Cl.COC1CCCC1
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-4-methylbenzamide hydrochloride | 65.0 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)C)=O | InChI=1S/C21H24N2O.ClH/c1-14-2-6-17(7-3-14)21(24)23-18-10-8-16(9-11-18)19-12-20(19)22-13-15-4-5-15;/h2-3,6-11,15,19-20,22H,4-5,12-13H2,1H3,(H,23,24);1H/t19-,20+;/m0./s1
